### PR TITLE
[Merged by Bors] - chore: swap argument order in `cfc` and `cfcₙ`

### PR DESCRIPTION
**Pull request by j-loreaux**
This changes the argument order for `cfc` and `cfcₙ` from `cfc (a : A) (f : R → R)` to `cfc (f : R → R) (a : A)`. This has a few advantages:

1. It's closer to the usual reading (`cfc f a` vs. `f(a)` on paper).
2. argument order looks better for `cfc_comp` (`cfc (g ∘ f) a = cfc g (cfc f a)` instead of `cfc a (g ∘ f) = cfc (cfc f a) g`).
3. it will be much easier to speak of operator convexity and monotonicity if we can just write `cfc f`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean [hunk 1]
```diff
@@ -211,8 +211,8 @@ lemma spectrum_star_mul_self_nonneg {b : A} : ∀ x ∈ spectrum ℝ (star b * b
       simp [sup_eq_right.mpr hx.le]
   have h_c_spec₀ : SpectrumRestricts (- (star c * c)) (ContinuousMap.realToNNReal ·) := by
     simp only [SpectrumRestricts.nnreal_iff, h_eq_a_neg]
-    rw [← cfc_pow _ _ _ (.star_mul_self b)]
-    simp only [cfc_map_spectrum (R := ℝ) (star b * b) (fun x => (-ContinuousMap.id ℝ ⊔ 0) x ^ 3)]
+    rw [← cfc_pow _ _ (ha := .star_mul_self b)]
```
Comment (dupuisf) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean:214]:
```suggestion
    rw [← cfc_pow (ha := .star_mul_self b)]
```
Untested, but surely you don't need the underscores when you specify the arguments like this, no?

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean [hunk 2]
```diff
@@ -235,12 +235,12 @@ lemma spectrum_star_mul_self_nonneg {b : A} : ∀ x ∈ spectrum ℝ (star b * b
     exacts [le_rfl, h_c_spec₁ x hx]
   rw [h_c_spec₂.eq_zero_of_neg (.star_mul_self c) h_c_spec₀, neg_zero] at h_eq_a_neg
   simp only [a_neg] at h_eq_a_neg
-  rw [← cfc_pow _ _ _ (by aesop (add simp a)), ← cfc_zero a (R := ℝ)] at h_eq_a_neg
+  rw [← cfc_pow _ _ (ha := by aesop (add simp a)), ← cfc_zero a (R := ℝ)] at h_eq_a_neg
```
Comment (dupuisf) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean:238]:
```suggestion
  rw [← cfc_pow (ha := by aesop (add simp a)), ← cfc_zero a (R := ℝ)] at h_eq_a_neg
```
same thing

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 3]
```diff
@@ -32,19 +32,19 @@ Although `cfcHom : p a → C(spectrum R a, R) →*ₐ[R] A` is a necessity for g
...
 argument to `cfc` is not continuous on the spectrum of `a`.
 
 This completely unbundled approach may give up some conveniences, but it allows for tremendous
-freedom. In particular, `cfc a f` makes sense for *any* `a : A` and `f : R → R`. This is quite
+freedom. In particular, `cfc f a` makes sense for *any* `a : A` and `f : R → R`. This is quite
 useful in a variety of settings, but perhaps the most important is the following.
 Besides being a star algebra homomorphism sending the identity to `a`, the key property enjoyed
 by the continuous functional calculus is the *composition property*, which guarantees that
-`cfc a (g ∘ f) = cfc (cfc a f) g` under suitable hypotheses on `a`, `f` and `g`. Note that this
+`cfc (g ∘ f) a = cfc (cfc g a) f` under suitable hypotheses on `a`, `f` and `g`. Note that this
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:44]:
```suggestion
`cfc (g ∘ f) a = cfc g (cfc f a)` under suitable hypotheses on `a`, `f` and `g`. Note that this
```

**Review by dupuisf — APPROVED** [review]
Looks good!

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean:214]: Actually you *do*, at least for the first argument (`f`). This is because you need to force Lean to unify the argument at the appropriate time so that the auto-param for it runs.

Comment (dupuisf) [reply Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus/Instances.lean:214]: Oh dear! Alright then!

**Comment by dupuisf** [comment]
Thanks!

bors r+
